US08669266B2
(ii) 4-{2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 10 g 4-{2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]acetyl}-piperazine-1-carboxylic acid butyl ester in 41 ml of DMF, 8.6 g of cesium carbonate and 6.1 g of Bromo-acetic acid benzyl ester were added and the reaction mixture was stirred for 16 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 5.2 g.

reactant | 4-{2-[(4-Hydroxy-quinoline-2-carbonyl)-amino]acetyl}-piperazine-1-carboxylic acid butyl ester | 10 g | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC=CC=C2C(=C1)O)=O | C21H26N4O5
reactant | cesium carbonate | 8.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid benzyl ester | 6.1 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | DMF | 41 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)=O | C30H34N4O7
